US08134013B2
5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid [2-(pyrrolidin-1-yl)ethyl]amide
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (22 mg, 0.075 mmol) in dimethyl sulfoxide (2.0 mL) was heated with 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid [2-(pyrrolidin-1-yl)ethyl]-amide (21 mg, 0.075 mmol) prepared in Reference Synthetic Example 1 at 100° C. for 24 hours. Evaporation of the solvent followed by recrystallization from chloroform (1 mL)-diethyl ether (2 mL) affored 12 mg of the desired product (yield 29%).

reactant | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.075 mmol, 22 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(hydrazinocarbonyl)thiophene-2-carboxylic acid [2-(pyrrolidin-1-yl)ethyl]-amide | 0.075 mmol, 21 mg | N1(CCCC1)CCNC(=O)C=1SC(=CC1)C(=O)NN | C12H18N4O2S
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
product | 5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic acid [2-(pyrrolidin-1-yl)ethyl]amide | 12 mg, yield 29% | N1(CCCC1)CCNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C24H24Cl2N4O3S2
